US06455528B1
Synthesis of N-(4-((4-(Pyrimidin-2-yl)piperazin-1-yl)methyl)phenylmethyl)propionamide 1/4 Hydrate
A solution of 2-(4-(4-(aminomethyl)phenylmethyl)piperazin-1-yl)pyrimidine (0.5 g), propionic chloride (0.18 ml) and triethylamine (0.3 ml) in methylene chloride (20 ml) was stirred at room temperature for 2 hr. The reaction mixture was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give a pale-yellow substance (0.8 g). The obtained pale-yellow substance was crystallized from hexane/ethyl acetate (1:1, 50 ml) to give the title compound (0.5 g) as pale-yellow crystals.

reactant | 2-(4-(4-(aminomethyl)phenylmethyl)piperazin-1-yl)pyrimidine | 0.5 g | NCC1=CC=C(C=C1)CN1CCN(CC1)C1=NC=CC=N1 | C16H21N5
reactant | propionic chloride | 0.18 ml | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(4-((4-(Pyrimidin-2-yl)piperazin-1-yl)methyl)phenylmethyl)propionamide | 0.5 g | N1=C(N=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(CC)=O | C19H25N5O
